US07176215B2
3-Benzoyl-2-fluoropyridine
To a freshly prepared solution of lithium diisopropylamide (22 mmol) in dry THF (20 mL) under nitrogen and cooled to −78° was added a solution of 2-fluoropyridine (1.94 g, 20 mmol) in dry THF (10 mL). The reaction was stirred for 2.5 h at −78° before adding a solution of N-methoxy-N-methyl benzamide (3.47 g, 21 mmol) in THF (8 mL). The reaction mixture was allowed to warm to room temperature over 1.5 h and stir at room temperature for 1 h. The reaction was quenched with water (50 mL), extracted with EtOAc (2×50 mL), the extracts dried (MgSO4) and concentrated in vacuo. The crude product was purified by chromatography on silica (5–20% EtOAc in isohexane) to give the title compound as a colourless oil (1.05 g, 26%). δH (CDCl3) 8.44 (1H, ddd, J 4.9, 2.0, 1.1 Hz), 8.06 (1H, ddd, J 9.3, 7.4, 2.0 Hz), 7.84 (2H, dm, J 8.4 Hz), 7.66 (1H, tt, J 7.4, 1.3 Hz), 7.52 (2H, tm, J 7.8 Hz), 7.38 (1H, ddd, J 6.8, 4.9, 1.9 Hz). LCMS (ES+) RT 3.27 minutes, 202 (M+H)+

reactant | lithium diisopropylamide | 22 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-fluoropyridine | 20 mmol, 1.94 g | FC1=NC=CC=C1 | C5H4FN
reactant | N-methoxy-N-methyl benzamide | 21 mmol, 3.47 g | CON(C(C1=CC=CC=C1)=O)C | C9H11NO2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 3-Benzoyl-2-fluoropyridine | 1.05 g, 26% | C(C1=CC=CC=C1)(=O)C=1C(=NC=CC1)F | C12H8FNO
